US08309721B2
Synthesis of 4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]-2-(4-hydroxy-3(R,S)-methylbutylamino)benzamide
The process is carried out as in stage 2 of Example 3, but using 300 mg of 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 1 of Example 32, 301 mg of potassium carbonate and 1.50 g of 4-amino-2(R,S)-methylbutanol in 3 ml of dimethyl sulphoxide. 1.38 ml of a 1M aqueous solution of sodium hydroxide, 1.336 ml of a 30% aqueous solution of hydrogen peroxide and 7 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ethanol (95/5 by volume), followed by crystallization from 5 ml of ethyl acetate, 225 mg of 4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]-2-(4-hydroxy-3(R,S)-methylbutylamino)benzamide are thus obtained in the form of a beige solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile | 300 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 301 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-2(R,S)-methylbutanol | 1.50 g | NCCC(CO)C | C5H13NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]-2-(4-hydroxy-3(R,S)-methylbutylamino)benzamide | N1=CC(=CC2=CC=CC=C12)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NCCC(CO)C | C33H30N4O2
